US06821991B2
(2S)-2-Phenoxymethyl-oxirane:
A solution of phenol (9.4 g, 100 mmol) and (2S)-(+)glycidyl 3-nitrobenzesulfonate(25.9 g, 100 mmol) in 500 mL of acetone was treated with 3 equivalents of potassium carbonate (41.5 g, 300 mmol) and stirred at reflux for 1 day. The suspension was cooled to ambient temperature; the solid was filtered; and the filtrate concentrated to dryness. The residue was partitioned between methylene chloride and water and the aqueous layer was extracted with methylene chloride. The organic layers were combined and dried over magnesium sulfate and concentrated to give the title compound (15.0 g, 99%) as an orange oil; 1H NMR (300 MHz, CDCl3) δ 6 2.76 (dd, J=4.9, 2.6 Hz, 1 H), 2.90 (dd, J=4.9, 4.9 Hz, 1 H), 3.30-3.40 (m, 1 H), 3.95 (dd, J=11.0, 5.4 Hz, 1 H), 4.18 (dd, J=11.0, 3.0 Hz, 1 H), 6.85-7.00 (m, 3 H), 7.25-7.35 (m, 2 H); MS (ES) m/z: 151.0 (MH+).

reactant | phenol | 100 mmol, 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 300 mmol, 41.5 g, 3 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 500 mL | CC(=O)C | C3H6O
product | (2S)-2-Phenoxymethyl-oxirane | 15.0 g, 99% | O(C1=CC=CC=C1)C[C@H]1OC1 | C9H10O2
